US04734418
Ethyl 2-(4-benzylpiperazino)-4-hydroxypyrimidine-5-carboxylate
An ethanol solution of 25.2 g of sodium hydroxide was added with 160 g (0.60 mol) of 1-amidino-4-benzylpiperazine sulfate, followed by a dropwise addition of 129.4 g (0.60 mol) of diethyl ethoxymethylenemalonate over 20 minutes. After being refluxed for 5.5 hours, the reaction mixture was cooled and the precipitated crystals were collected by filtration. The thus-obtained crystals were washed with water and then dried, thereby obtaining 131.4 g of the above-identified compound (yield: 64%).

reactant | sodium hydroxide | 25.2 g | [OH-].[Na+]
reactant | 1-amidino-4-benzylpiperazine sulfate | 0.60 mol, 160 g | S(=O)(=O)(O)O.C(N)(=N)N1CCN(CC1)CC1=CC=CC=C1
reactant | diethyl ethoxymethylenemalonate | 0.60 mol, 129.4 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 2-(4-benzylpiperazino)-4-hydroxypyrimidine-5-carboxylate | 131.4 g, yield: 64% | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC=C(C(=N1)O)C(=O)OCC | C18H22N4O3
